US04624956
2-Amino-5-(methyl-thiocarbamoyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine (n=0, R1 =R2 =H, R3 =CH3, X=3)-FCE 2282
1.55 G (10 mmol) of 2-amino-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine was dissolved in 25 ml of dimethylformamide and the solution was cooled in an ice-water bath. 0.88 g (12 mmol) of methyl isothiocyanate was then added. After 71/2 hours the solvent was removed by evaporation and the residue (about 2.2 g) was crystallized from acetonitrile. 1.25 g (55% yield) of the pure title compound (m.p. 188°-190° C. with decomposition) were obtained.

reactant | 2-amino-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 10 mmol | NC=1SC=2CNCCC2N1 | C6H9N3S
reactant | methyl isothiocyanate | 12 mmol, 0.88 g | CN=C=S | C2H3NS
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-Amino-5-(methyl-thiocarbamoyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 1.25 g, 55% yield | NC=1SC=2CN(CCC2N1)C(NC)=S | C8H12N4S2
